US09062070B2
Step A: 6-(bromoacetyl)-3,4-dihydro-1H-isochromen-1-one
6-Bromo-3,4-dihydro-1H-isochromen-1-one (6.90 g, 30.4 mmol), tributyl(1-ethoxyethenyl)stannane (10.8 mL, 31.9 mmol, 1.05 equiv), and PdCl2(PPh3)2 (1.07 g, 1.52 mmol, 0.05 equiv) were weighed into a 250 mL round bottom flask. To this was added dioxane (70 mL) and the resulting mixture stirred at 80° C. for 4 h. The reaction was not complete by HPLC, therefore another 0.1 equiv of tin reagent was added. After 30 min 6-bromo-3,4-dihydro-1H-isochromen-1-one had been fully consumed as indicated by HPLC. The reaction mixture was cooled to 0° C. and 35 mL THF followed by 14 mL H2O were added. To this was introduced solid N-bromosuccinimide (5.68 g, 31.9 mmol, 1.05 equiv), added in portions over 5 min. After stirring for 30 min there was still evidence of remaining enol ether, therefore NBS was added in small portions (˜300 additional mg added) until it was consumed as evidenced by HPLC. Water was then added and the mixture extracted with EtOAc. The aqueous layer was extracted 2 additional times with EtOAc, the combined organics dried with MgSO4, filtered and concentrated in vacuo. This was transferred with EtOAc to a 100 mL round bottom flask, the resulting solution concentrated to ˜25 mL total volume, at which point hexane (50 mL) was added dropwise. When complete the heterogeneous mixture was stirred for 30 min, then cooled to 0° C. and stirred for 10 min, then filtered and washed twice with hexanes. The desired product was dried under a nitrogen bag, then purified by flash chromatography (12 to 100% EtOAc/Hex) to provide the title compound.

reactant | 6-Bromo-3,4-dihydro-1H-isochromen-1-one | 30.4 mmol, 6.90 g | BrC=1C=C2CCOC(C2=CC1)=O | C9H7BrO2
reactant | tributyl(1-ethoxyethenyl)stannane | 31.9 mmol, 10.8 mL, 1.05 equiv | C(CCC)[Sn](C(=C)OCC)(CCCC)CCCC
reactant | tin | 0.1 equiv | [Sn] | Sn
reactant | N-bromosuccinimide | 31.9 mmol, 5.68 g, 1.05 equiv | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | NBS | C1CC(=O)N(C1=O)Br | C4H4BrNO2
catalyst | PdCl2(PPh3)2 | 1.52 mmol, 1.07 g, 0.05 equiv | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | dioxane | 70 mL | O1CCOCC1 | C4H8O2
product | 6-(bromoacetyl)-3,4-dihydro-1H-isochromen-1-one | BrCC(=O)C=1C=C2CCOC(C2=CC1)=O | C11H9BrO3
